US07820680B2
Step 3: Ethyl [1-(4-fluorobenzyl)-4-(benzyloxycarbonyl)-6-oxo-piperazin-2-yl]acetate
To a solution of ethyl [1-(4-fluorobenzyl)-6-oxo-piperazin-2-yl]acetate (3.7 g, 12.5 mmol) in dichloromethane (100 mL) was added benzyl chloroformate (2.2 mL, 15.1 mmol) and triethylamine (3.5 mL, 25.1 mmol), stirred over night. The reaction mixture was diluted with dichloromethane, washed with 1N HCl, water and brine, dried over sodium sulfate, filtered and concentrated to give the title compound. 1H NMR (400 MHz, CDCl3) δ 7.23-7.38 (m, 7H), 7.01 (t, J=8.6 Hz, 2H), 5.12-5.22 (m, 3H), 4.40-4.56 (m, 1H), 3.90-4.24 (m, 5H), 3.72-3.86 (m, 1H), 3.04-3.18 (m, 1H), 2.49-2.62 (m, 2H), 1.12-1.28 (m, 3H). ES MS (M+1)=429.24.

reactant | ethyl [1-(4-fluorobenzyl)-6-oxo-piperazin-2-yl]acetate | 12.5 mmol, 3.7 g | FC1=CC=C(CN2C(CNCC2=O)CC(=O)OCC)C=C1 | C15H19FN2O3
reactant | benzyl chloroformate | 15.1 mmol, 2.2 mL | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
reactant | triethylamine | 25.1 mmol, 3.5 mL | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
product | Ethyl [1-(4-fluorobenzyl)-4-(benzyloxycarbonyl)-6-oxo-piperazin-2-yl]acetate | FC1=CC=C(CN2C(CN(CC2=O)C(=O)OCC2=CC=CC=C2)CC(=O)OCC)C=C1 | C23H25FN2O5
